US06506744B1
To a solution of 3-(R,S)-{2-[7-amino-3-(S)-(4-hydroxy-benzyl)-2,5-dioxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepin-4-yl]-acetylamino}-3-phenyl-propionic acid (0.1 mmol, 50mg) in DMF (2.5 mL) was added benzylisocyanate (31 μl 0.25 mmol). The mixture was shaken at 45° C. over night until no starting material was detected by HPLC. Afterwards the solution was concentrated in vacuo. The crude product was purified by RP-HPLC to give 3-(R,S)-{2-[7-(3-benzyl-ureido)-3-(S)-(4-hydroxy-benzyl)-2,5-dioxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepin-4-yl]-acetylamino}-3-phenyl-propionic acid (20 mg): MS 634 (M−H)−.

reactant | 3-(R,S)-{2-[7-amino-3-(S)-(4-hydroxy-benzyl)-2,5-dioxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepin-4-yl]-acetylamino}-3-phenyl-propionic acid | 0.1 mmol, 50mg | NC1=CC2=C(NC([C@@H](N(C2=O)CC(=O)NC(CC(=O)O)C2=CC=CC=C2)CC2=CC=C(C=C2)O)=O)C=C1 | C27H26N4O6
reactant | benzylisocyanate | 0.25 mmol, 31 μl | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 3-(R,S)-{2-[7-(3-benzyl-ureido)-3-(S)-(4-hydroxy-benzyl)-2,5-dioxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepin-4-yl]-acetylamino}-3-phenyl-propionic acid | 20 mg | C(C1=CC=CC=C1)NC(NC1=CC2=C(NC([C@@H](N(C2=O)CC(=O)NC(CC(=O)O)C2=CC=CC=C2)CC2=CC=C(C=C2)O)=O)C=C1)=O | C35H33N5O7
